US04931457
N-(2-Naphthyl)-4-nitro-3-pyridinamine-N-oxide
To 150 ml of ethanol were added 3-fluoro-4-nitropyridine-N-oxide (7.0 g) and 2-aminonaphthalene (6.6 g) and the mixture was heated to 70° C. and stirred for one hour. The mixture was cooled and filtered and the solid collected to yield a solid (11.5 g). A 2.5 g portion of this material was triturated with methanol to yield a solid, 2.5 g, m.p. 222°-224° C.

reactant | 3-fluoro-4-nitropyridine-N-oxide | 7.0 g | FC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C5H3FN2O3
reactant | 2-aminonaphthalene | 6.6 g | NC1=CC2=CC=CC=C2C=C1 | C10H9N
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | N-(2-Naphthyl)-4-nitro-3-pyridinamine-N-oxide | 11.5 g | C1=C(C=CC2=CC=CC=C12)[NH+](C=1C=NC=CC1[N+](=O)[O-])[O-] | C15H11N3O3
